US05902827
To a solution of methyl 5-fluoro-2-methyl-3-indenyl- acetate (24 g) in dry THF (300 ml) lithiumaluminum hydride (6.9 g) is added. The mixture is stirred at room temperature for 1.5 hours. Excess LiA1H4 is destroyed with saturated aqueous NaHSO4 solution. The organic phase is concentrated in vacuo, and the crude product is purified via silica gel column chromatography elution with methylene chloride. The residue is recrystallized from hexane to give 5-fluoro-2-methyl-1H-3-indenyl-(2-hydroxy) ethane (yield 63%; m.p. 65-66.5° C.).

reactant | methyl 5-fluoro-2-methyl-3-indenyl- acetate | 24 g | FC=1C=C2C(=C(CC2=CC1)C)CC(=O)OC | C13H13FO2
solvent | THF | 300 ml, 6.9 g | C1CCOC1 | C4H8O
product | 5-fluoro-2-methyl-1H-3-indenyl-(2-hydroxy) ethane | yield 63% | FC=1C=C2C(=C(CC2=CC1)C)CCO | C12H13FO
